US05451501
Succinic anhydride (24.2 g) and tetradecanol (42.9 g) were molten by heating them at 120° to 130° C. and stirred for 3 hours. After completion of the reaction, the reaction mixture was cooled to 80° C., and 50 ml of water was added thereto. The mixture was stirred for one additional hour. The reaction mixture was cooled to room temperature and extracted with 200 ml of ethyl acetate. The ethyl acetate solution was washed with 200 ml of water three times and concentrated to dryness under reduced pressure. There was obtained 60.9 g (96.8%) of 3-tetradecyloxycarbonylpropionic acid. Melting point: 48° to 49° C.

reactant | Succinic anhydride | 24.2 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | tetradecanol | 42.9 g | C(CCCCCCCCCCCCC)O | C14H30O
solvent | water | 50 ml | O | H2O
product | 3-tetradecyloxycarbonylpropionic acid | 60.9 g, 96.8% | C(CCCCCCCCCCCCC)OC(=O)CCC(=O)O | C18H34O4
